US03975440
Preparation of 2-methyl-2-(3-oxopentyl)-1,3-cyclopentanedione
A total of 88 mg. of hydroquinone monomethyl ether was added to 10 ml. of ether vinyl ketone to stabilize the latter compound. There was then added to the above mixture 0.08 ml. of glacial acetic acid, 26 ml. of dimeneralized water and 11.2 g. of 2-methyl-1,3-cyclopentanedione. The resulting mixture was stirred under argon at room temperature for 15 days. An additional 9 ml. of ethyl vinyl ketone was added at the fourth day and 9.5 ml. of ethyl vinyl ketone was added at the ninth day. After 15 days, 50 ml. of benzene was added and sufficient sodium chloride was added to the aqueous phase to allow separation after shaking. The phases were separated and the aqueous phase re-extracted with 50 ml. of benzene. The combined benzene extracts were treated with a mixture of sodium sulfate, magnesium sulfate and activated charcoal. The solids were filtered off and were washed with a mixture of chloroform and ether. The combined filtrates were evaporated in vacuo and the residue was treated with an additional portion of benzene followed by concentration to dryness in vacuo. There was obtained 21.1 g. of an oil residue which was fractionally distilled at 0.05 mmHg and the fraction boiling in the range of 105°-118°C. was collected; yield 17.47 g. (89 percent). This fraction was redistilled at 0.025 mmHg to give a fraction boiling at 97°-115°C.; yield 16 g. (83.5 percent) of the above-captioned product.

reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
reactant | 2-methyl-1,3-cyclopentanedione | CC1C(CCC1=O)=O | C6H8O2
reactant | ethyl vinyl ketone | C(=C)C(=O)CC | C5H8O
reactant | sodium chloride | [Cl-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-2-(3-oxopentyl)-1,3-cyclopentanedione | CC1(C(CCC1=O)=O)CCC(CC)=O | C11H16O3
